US07829724B2
(R)—N-(1-(5-((1H-indol-3-yl)methyl)-4-phenethyl-4H-1,2,4-triazol-3-yl)-2-(1H-indol-3-yl)ethyl)-2-amino-2-methylpropanamide (Compound 104)
δ (ppm) 21.4 (CH2-indole), 23.5 (CH3 Aib), 23.8 (CH3 Aib), 29.5 (CH2 βTrp), 35.8 (CH2—CH2-phenyl), 44.5 (CH2—CH2-phenyl), 45.8 (CH αTrp), 56.7 (Cq Aib), 108.5 (C3 indole), 109.9 (C3 Trp), 114.0 (C7 indole and C7 Trp), 118.4 (C4 Trp), 118.8 (C4 indole and C5 Trp), 119.0 (C5 indole), 121.4 (C6 Trp), 121.7 (C6 indole), 124.0 (C2 indole and C2 Trp), 127.1 (C4 phenyl), 127.7 (C9 indole and C9 Trp), 128.8 (C2 and C6 phenyl), 129.1 (C3 and C5 phenyl), 136.5 (C8 Trp), 136.6 (C8 indole), 137.5 (C1 phenyl), 153.6 (Cq triazole), 155.0 (Cq triazole), 171.8 (CO Aib).

reactant | Aib | NC(C)(C)C(=O)O | C4H9NO2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | Trp | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | triazole | N1N=NC=C1 | C2H3N3
product | (R)—N-(1-(5-((1H-indol-3-yl)methyl)-4-phenethyl-4H-1,2,4-triazol-3-yl)-2-(1H-indol-3-yl)ethyl)-2-amino-2-methylpropanamide | N1C=C(C2=CC=CC=C12)CC=1N(C(=NN1)[C@@H](CC1=CNC2=CC=CC=C12)NC(C(C)(C)N)=O)CCC1=CC=CC=C1 | C33H35N7O
